US08071586B2
E) ((S)-3-Benzyloxy-1-methoxymethyl-propyl)-(2,2-dimethoxy-ethyl)-amine
To a solution of (S)-3-benzyloxy-1-methoxymethyl-propylamine (1.34 g, 6.40 mmol) in methanol (25 mL) were added dimethoxyacetaldehyde solution (45% in tert-butyl methyl ether, 1.81 mL, 7.04 mmol), magnesium sulfate (6.94 g, 57.6 mmol), acetic acid (1.54 g, 25.6 mmol), and sodium cyanoborohydride (551 mg, 8.32 mmol), then after 4 h the reaction mixture was cooled to 0° C. and treated with another portion of dimethoxyacetaldehyde solution (45% in tert-butyl methyl ether, 0.22 mL, 0.96 mmol). The ice bath was removed, then after 2 h the reaction was stopped by careful addition of sat. aq. sodium hydrogencarbonate solution. The reaction mixture was partitioned between sat. aq. sodium hydrogencarbonate solution and ethyl acetate, the organic layer was washed with brine, dried (MgSO4), filtered, and evaporated. Chromatography (SiO2; dichloromethane/methanol 19:1) furnished the title compound (1.60 g, 84%). Light yellow liquid, MS (ISP)=298.3 (M+H)+.

reactant | (S)-3-benzyloxy-1-methoxymethyl-propylamine | 6.40 mmol, 1.34 g | C(C1=CC=CC=C1)OCC[C@@H](COC)N | C12H19NO2
reactant | dimethoxyacetaldehyde | 7.04 mmol, 1.81 mL | COC(C=O)OC | C4H8O3
reactant | magnesium sulfate | 57.6 mmol, 6.94 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | acetic acid | 25.6 mmol, 1.54 g | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 8.32 mmol, 551 mg | C(#N)[BH3-].[Na+]
reactant | dimethoxyacetaldehyde | 0.96 mmol, 0.22 mL | COC(C=O)OC | C4H8O3
solvent | methanol | 25 mL | CO | CH4O
product | ((S)-3-Benzyloxy-1-methoxymethyl-propyl)-(2,2-dimethoxy-ethyl)-amine | 1.60 g, 84% | C(C1=CC=CC=C1)OCC[C@@H](COC)NCC(OC)OC | C16H27NO4
